US07078414B2
1.73 g (12.5 mmol) of potassium carbonate are added at 20° C. under an argon atmosphere to 0.625 g (5 mmol) of 3-methoxycarbonyl-1H-pyrrole and 0.82 g (5 mmol) of 2-chloroquinoline dissolved in 10 mL of dimethyl sulphoxide. After stirring at 100° C. for 23 hours, the reaction mixture is poured into 30 mL of water and is then allowed to crystallise at 20° C. for 1 hour. After filtering off and air-drying the solid residue, 0.83 g of 3-methoxycarbonyl-1-(quinol-2-yl)-1H-pyrrole is obtained in the form of a beige-coloured solid melting at 136° C.

reactant | potassium carbonate | 12.5 mmol, 1.73 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-methoxycarbonyl-1H-pyrrole | 5 mmol, 0.625 g | COC(=O)C1=CNC=C1 | C6H7NO2
reactant | 2-chloroquinoline | 5 mmol, 0.82 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | water | 30 mL | O | H2O
solvent | dimethyl sulphoxide | 10 mL | CS(=O)C | C2H6OS
product | 3-methoxycarbonyl-1-(quinol-2-yl)-1H-pyrrole | 0.83 g | COC(=O)C1=CN(C=C1)C1=NC2=CC=CC=C2C=C1 | C15H12N2O2
